US04229449
10 g of 2-[α-(2-amino-phenoxy)-benzyl]-4-methyl-morpholin-5-one was dissolved at 0° C. in 32 ml of 35% H2SO4. At this temperature slow addition was made of 2.76 g of NaNO2 dissolved in 40 ml of H2O and the mixture was kept under stirring in cold conditions for 20 minutes. Still at 0° C. there was added 120 g of Cu(NO3)2 dissolved in 1000 ml of H2O and 4.2 g of Cu2O. After 5 minutes extraction was performed in cold conditions with ethyl acetate; the organic phase was washed to neutrality with a saturated aqueous solution of NaCl, dehydrated with sodium sulphate and evaporated to dryness. There was obtained a yellow oil which was separated by column chromatography on silica gel (phase: ethyl acetate/cyclohexane 2:1). There was obtained 6 g (Yield 60%) of 2-[α-(2-hydroxy-phenoxy)-benzyl]-4-methyl-morpholin-5 -one.

reactant | 2-[α-(2-amino-phenoxy)-benzyl]-4-methyl-morpholin-5-one | 10 g | NC1=C(OC(C2=CC=CC=C2)C2CN(C(CO2)=O)C)C=CC=C1 | C18H20N2O3
reactant | NaNO2 | 2.76 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 32 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 40 ml | O | H2O
solvent | H2O | 1000 ml | O | H2O
product | 2-[α-(2-hydroxy-phenoxy)-benzyl]-4-methyl-morpholin-5 -one | 6 g, Yield 60% | OC1=C(OC(C2=CC=CC=C2)C2CN(C(CO2)=O)C)C=CC=C1 | C18H19NO4
